US20010021714A1
C. N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-tolyl)thiophene-2-sulfonamide
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-tolyl)thiophene-2-sulfonamide was prepared in the same manner as described in the Example 117C using 2-chlorosulfonyl-5-(3-tolyl)thiophene and 5-amino-4-bromo-3-methylisoxazole. To obtain the ammonium salt of the final product, aqueous NH40H was used (31% yield; hygroscopic).

reactant | 2-chlorosulfonyl-5-(3-tolyl)thiophene | ClS(=O)(=O)C=1SC(=CC1)C=1C=C(C=CC1)C | C11H9ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-tolyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C=1C=C(C=CC1)C)C | C15H13BrN2O3S2
